US05371093
[2-Benzothiazolyl][1-[2-(4-fluorophenyl)ethyl]-4-piperidinyl]methanone
Mix (2-benzothiazolyl)(4-piperidinyl)methanone.CF3CO2H (1.95 g, 5.43 mmol), 2-(4-fluorophenyl)ethyl bromide (1.70 g, 8.35 mmol), benzyltriethylammonium bromide (149 mg, 0.54 mmol), sodium hydroxide (5 g), water (25 mL) and methylene chloride (25 mL). Stir at room temperature under an argon atmosphere overnight, then heat at reflux overnight. Cool the reaction to room temperature, separate the organic phase and extract the aqueous phase with methylene chloride (50 mL). Combine the organic phases, dry (Na2SO4) and evaporate the solvent in vacuo. Purify by chromatography (20% ethyl acetate/hexane with 2% triethylamine) and recrystallize (hexane) to give the title compound as pale yellow needles; mp 97°-98° C.

reactant | (2-benzothiazolyl)(4-piperidinyl)methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C13H14N2OS
reactant | CF3CO2H | 5.43 mmol, 1.95 g | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | 2-(4-fluorophenyl)ethyl bromide | 8.35 mmol, 1.70 g | FC1=CC=C(C=C1)CCBr | C8H8BrF
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
catalyst | benzyltriethylammonium bromide | 0.54 mmol, 149 mg | [Br-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | [2-Benzothiazolyl][1-[2-(4-fluorophenyl)ethyl]-4-piperidinyl]methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)CCC2=CC=C(C=C2)F | C21H21FN2OS
